US06403639B1
Under argon atmosphere, 65 mg of 5-acetoxy-6-t-butyl-2,2,4-trimethyl-2,3-dihydrobenzofuran was dissolved in 1.5 ml of anhydrous tetrahydrofuran, a solution of 22 mg of lithium aluminium hydride in 1 ml of anhydrous tetrahydrofuran was added, and the mixture was stirred at room temperature for a whole day and night. After cooling to 0° C., the reaction was quenched with water and then the reaction solution was combined with 10% hydrochloric acid and extracted with ethyl acetate. The organic layers were washed with a saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was recrystallized from hexane to give 25 mg of 6-t-butyl-5-hydroxy-2,2,4-trimethyl-2,3-dihydrobenzofuran as a white solid (yield 45%).

reactant | 5-acetoxy-6-t-butyl-2,2,4-trimethyl-2,3-dihydrobenzofuran | 65 mg | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)C)C1C)C(C)(C)C | C17H24O3
reactant | lithium aluminium hydride | 22 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-t-butyl-5-hydroxy-2,2,4-trimethyl-2,3-dihydrobenzofuran | 25 mg, yield 45% | C(C)(C)(C)C1=CC2=C(CC(O2)(C)C)C(=C1O)C | C15H22O2
